US04220773
2-iso-Octyl-7,7,9,9-tetramethyl-1-oxa-3,8-diaza-spiro-[4,5]-decane
182 g of 2,2,6,6-tetramethyl-4-hydroxy-4-cyanopiperidine, 284 g of isononyl-aldehyde and 200 g of concentrated sulfuric acid are stirred for 25 hours at 60° C. in 600 g of glacial acetic acid in a 2 liter apparatus with agitator. After cooling the main portion of the solvent is distilled off under reduced pressure. The residue is stirred with 500 ml of acetone and suction-filtered, thus yielding 292 g=69% of th. of the sulfuric acid salt of the intended compound.

reactant | 2,2,6,6-tetramethyl-4-hydroxy-4-cyanopiperidine | 182 g | CC1(NC(CC(C1)(C#N)O)(C)C)C | C10H18N2O
reactant | sulfuric acid | 200 g | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 600 g | C(C)(=O)O | C2H4O2
product | 2-iso-Octyl-7,7,9,9-tetramethyl-1-oxa-3,8-diaza-spiro-[4,5]-decane | C(CCCCC(C)C)C1OC2(CN1)CC(NC(C2)(C)C)(C)C | C19H38N2O
